US09375000B2
A mixture of t-butyl[(6-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]carbamate (0.63 g), ethyl acetate (20 ml) and conc. hydrochloric acid (2 ml) was stirred at 60° C. for 1 hour. After cooling, the mixture was neutralized with sodium carbonate, extracted with ethyl acetate and dried. The solvent was distilled off to obtain 1-[5-(aminomethyl)-6-bromopyridin-2-yl]-3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-2-ol (0.43 g).

reactant | t-butyl[(6-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]carbamate | 0.63 g | C(C)(C)(C)OC(NCC=1C(=NC(=CC1)N1C(C(CC1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O)Br)=O | C24H23BrF9N3O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[5-(aminomethyl)-6-bromopyridin-2-yl]-3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-2-ol | 0.43 g | NCC=1C=CC(=NC1Br)N1C(C(CC1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)O | C19H15BrF9N3O
